US06103732
2-(2,6-Dimethoxy-4-pyrimidinyloxy)-3-methoxy-3,3-diphenyl-propionic acid
550 mg (1.3 mmol) of methyl 2-(2,6-dimethoxy-4-pyrimidinyl-oxy)-3-methoxy-3,3-diphenylpropionate were dissolved in 5 ml of dioxane, 2.6 ml of 1N KOH solution were added, and the mixture was stirred at 100° C. for 3 h. The solution was diluted with 300 ml of water and extracted with ethyl acetate to remove unreacted ester. The aqueous phase was then adjusted to pH 1-2 with dilute hydrochloric acid and was extracted with ethyl acetate. After drying over magnesium sulfate and removal of the solvent by distillation, the residual foam (425 mg) was purified by MPLC, resulting in 205 mg (40%) of product as foam.

reactant | methyl 2-(2,6-dimethoxy-4-pyrimidinyl-oxy)-3-methoxy-3,3-diphenylpropionate | 1.3 mmol, 550 mg | COC1=NC(=CC(=N1)OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC)OC | C23H24N2O6
reactant | KOH | 1N, 2.6 ml | [OH-].[K+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | 2-(2,6-Dimethoxy-4-pyrimidinyloxy)-3-methoxy-3,3-diphenyl-propionic acid | 205 mg, 40% | COC1=NC(=CC(=N1)OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC)OC | C22H22N2O6
